US08106043B2
tert-Butyl 3-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate:
Methyl thiophene-2-carbimidothioate hydroiodide (0.53 g, 1.874 mmol) was added to a mixture of tert-butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate (0.31 g, 0.937 mmol) in EtOH (20 mL). The mixture was stirred under room temperature overnight. The mixture was quenched with saturated sodium bicarbonate solution (50 mL). The solution was then transferred to a separatory funnel, diluted with water (50 mL), and extracted with CH2Cl2 (2×50 mL). The crude material was subjected to flash chromatography on silica gel (50-90% EtOAc/hexanes). The concentrated fractions afforded a yellow oil (0.29 g, 69%). 1H NMR (CDCl3) δ 7.41 (dd, J=0.9, 5.1 Hz, 1H), 7.38 (d, J=3.6 Hz, 1H), 7.06 (dd, J=3.9, 4.9 Hz, 1H), 6.79-6.76 (m, 2H), 6.68-6.66 (m, 1H), 4.84 (brs, 2H), 4.35-4.23 (m, 1H), 3.74-3.22 (m, 6H), 3.12-3.07 (m, 2H), 2.19-1.99 (m, 2H), 1.47 (s, 9H); ESI-MS (m/z, %): 447, 445 (MH+, 100).

reactant | Methyl thiophene-2-carbimidothioate hydroiodide | 1.874 mmol, 0.53 g | I.S1C(=CC=C1)C(=N)SC
reactant | tert-butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate | 0.937 mmol, 0.31 g | NC=1C=CC2=C(SCCN2C2CN(CC2)C(=O)OC(C)(C)C)C1 | C17H25N3O2S
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-Butyl 3-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate | 0.29 g, 69% | S1C(=CC=C1)C(NC=1C=CC2=C(SCCN2C2CN(CC2)C(=O)OC(C)(C)C)C1)=N | C22H28N4O2S2
